US05444152
(1) Preparation of Z-DTrp-βAla-OEt
Z-DTrp-OH (3.21 g) and βAla-OEt.HCl (1.49 g) were suspended in dichloromethane (30 ml), and N-methylmorpholine (1.05 g) and HOBT.H2O (1.59 g) were added at room temperature, and then EDCI.HCl (11.99 g) was added at 0°~5° C. The reaction mixture was stirred at room temperature overnight, diluted with dichloromethane, washed successively with sat. NaHCO3, 1N HCl and brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by dry column flash chromatography (Merck, Kieselgel 60) with dichloromethane/methanol=30/1 for elution to give the product (3.02 g).

reactant | Z-DTrp-OH | 3.21 g | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)O)C(=O)OCC1=CC=CC=C1 | C19H18N2O4
reactant | βAla-OEt.HCl | 1.49 g | NCCC(=O)OCC.Cl
reactant | N-methylmorpholine | 1.05 g | CN1CCOCC1 | C5H11NO
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 11.99 g | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | H2O | 1.59 g | O | H2O
product | Z-DTrp-βAla-OEt | 3.02 g | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)NCCC(=O)OCC)C(=O)OCC1=CC=CC=C1 | C24H27N3O5
